US09034882B2
To a solution of methyl 2-(2-bromo-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate (6.15 g, 15.03 mmol, 1 equiv) in toluene (200 mL) was added (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,2,3]oxazaborole (9.0 mL of a 1M solution in toluene, 9.02 mmol, 0.6 equiv). The solution was cooled to −25° C. (acetonitrile/CO2) and catechol borane (8.7 mL of a 50% solution in toluene, 36.1 mmol, 2.4 equiv) was added. The cooling bath temperature was maintained between −15° C. and −25° C. for 4 h. The reaction was then diluted with EtOAc (35 mL) and 10% aqueous solution of K2CO3 (35 mL) and then allowed to warm to ambient temperature. The quenched solution was stirred for 45 min and then added to water. Extract with ether (×3). Combined ether extracts dried over MgSO4 and concentrated in vacuo. The crude product was purified by silica gel flash chromatography (0-70% EtOAc/hexane) to provide (S)-methyl 2-(2-bromo-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate as a pale yellow glass (5.68 g, 92%). 1H NMR (500 MHz, CDCl3) δ 6.58 (s, 1H), 5.54 (d, J=5.2 Hz, 1H), 4.51 (d, J=5.0 Hz, 1H), 3.81 (s, 3H), 3.73-3.14 (m very broad, 4H), 2.62 (s, 3H), 1.60-1.54 (m, 4H), 1.11 (s, 6H); LCMS (ESI, M+1): 411.05.

reactant | methyl 2-(2-bromo-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate | 15.03 mmol, 6.15 g, 1 equiv | BrC1=NN2C(N=C(C(=C2N2CCC(CC2)(C)C)C(C(=O)OC)=O)C)=C1 | C17H21BrN4O3
reactant | acetonitrile CO2 | C(C)#N.C(=O)=O
reactant | catechol borane | [B]1OC2=CC=CC=C2O1 | C6H4BO2
reactant | water | O | H2O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 35 mL | CCOC(=O)C | C4H8O2
solvent | K2CO3 | 35 mL | C(=O)([O-])[O-].[K+].[K+]
product | (S)-methyl 2-(2-bromo-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate | 5.68 g, 92% | BrC1=NN2C(N=C(C(=C2N2CCC(CC2)(C)C)[C@@H](C(=O)OC)O)C)=C1 | C17H23BrN4O3
